US08008303B2
5′-Amino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester
5′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester (6.6 g) was stirred in ethanol (120 ml) and 6M HCl (50 ml) at 20 C for 2 days. The ethanol was evaporated and the residue basified and then extracted with dichloromethane. The dried extracts were evaporated giving the title compound as a pale brown crystalline solid (4 g).

reactant | 5′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester | 6.6 g | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)OC(C)(C)C)C | C21H25NO4
reactant | HCl | 6M, 50 ml | Cl | ClH
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 5′-Amino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester | 4 g | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)C | C16H17NO2
